US04734407
(a) Methyl 2,1-benzisothiazole-6-carboxylate (10a)
51.6 g (0.365 mole) of N-sulphinylmethanesulphonamide in 50 ml of benzene are added to a solution of 60 g (0.298 mole) of methyl 3-sulphinylamino-4-methylbenzoate in 200 ml of benzene at room temperature under argon. Thereafter, 24.9 g (0.315 mole) of pyridine, dissolved in 75 ml of benzene, are added in portions to the reaction mixture, while cooling with ice. The mixture is subsequently stirred at 0° C. for 10 minutes and then heated under reflux for 45 hours. After cooling, the benzene and pyridine are distilled off in vacuo, the oil which remains is poured into 150 ml of water and the mixture is acidified to pH 4 with 2N HCl. A brown solid thereby forms from the oil, and is extracted with chloroform. The chloroform extracts are washed with water, dried over MgSO4 and concentrated to dryness. The oil which remains crystallizes to a brown-yellow material by adding n-hexane, and the material is filtered off with suction and washed with n-hexane.

reactant | N-sulphinylmethanesulphonamide | 0.365 mole, 51.6 g | S(=O)=NS(=O)(=O)C | CH3NO3S2
reactant | methyl 3-sulphinylamino-4-methylbenzoate | 0.298 mole, 60 g | S(=O)=NC=1C=C(C(=O)OC)C=CC1C | C9H9NO3S
reactant | pyridine | 0.315 mole, 24.9 g | N1=CC=CC=C1 | C5H5N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | Methyl 2,1-benzisothiazole-6-carboxylate | N=1SC=C2C1C=C(C=C2)C(=O)OC | C9H7NO2S
